US04414221
3,5-Bis(2-chlorophenyl)-4,5-dihydro-1,2,4-oxadiazole
2-Chlorobenzamidoxime (3.4 g), 2-chlorobenzaldehyde (2.8 g), p-toluenesulphonic acid (1 g) and toluene (100 ml) were heated to reflux for 16 hours in Dean and Stark apparatus. The solution was then run down, and the residue was recrystallised from methanol to give 1.4 g of desired product, mp 75°-78° C.

reactant | 2-Chlorobenzamidoxime | 3.4 g | ClC1=C(C(N)=NO)C=CC=C1 | C7H7ClN2O
reactant | 2-chlorobenzaldehyde | 2.8 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-Bis(2-chlorophenyl)-4,5-dihydro-1,2,4-oxadiazole | 1.4 g | ClC1=C(C=CC=C1)C1=NOC(N1)C1=C(C=CC=C1)Cl | C14H10Cl2N2O
